US07851473B2
(1) 2,2,2-Trichloroethyl pyrazin-2-ylcarbamate
To a solution of aminopyrazine (2.00 g, 21.0 mmol) and pyridine (5.10 ml, 63.1 mmol) in tetrahydrofuran was added 2,2,2-trichloroethyl chloroformate (4.34 ml, 31.5 mmol) with ice-cooling, the mixture was stirred for 2 hours with ice-cooling, the reaction mixture was poured into ice-water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain the desired product (193 mg, 3.4%) as a solid.

reactant | aminopyrazine | 21.0 mmol, 2.00 g | NC1=NC=CN=C1 | C4H5N3
reactant | pyridine | 63.1 mmol, 5.10 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 31.5 mmol, 4.34 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl pyrazin-2-ylcarbamate | 193 mg, 3.4% | N1=C(C=NC=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
